US06417398B1
a) 2-Chloro-6-fluorobenzamidoxime
A mixture of 15.6 g of 2-chloro-6-fluorobenzonitrile, 9.0 g of hydroxylamine hydrochloride, 7.4 g of sodium carbonate, 50 ml of ethanol and 15 ml of water was stirred at 70-75° C. for 16 h. The solvent was evaporated and the residue was stirred with tertbutyl methyl ether, and the filtrate afforded, after evaporation of the solvent, 17.6 g of the desired product of m.p. 115-120° C.

reactant | 2-chloro-6-fluorobenzonitrile | 15.6 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | hydroxylamine hydrochloride | 9.0 g | Cl.NO
reactant | sodium carbonate | 7.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-Chloro-6-fluorobenzamidoxime | ClC1=C(C(N)=NO)C(=CC=C1)F | C7H6ClFN2O
